Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
scallops
 
Attending: ___
 
Chief Complaint:
Pneumonia, dehydration
 
Major Surgical or Invasive Procedure:
central venous line
 
History of Present Illness:
___ 5 days s/p uncomplicated left L5 MDFH and left L4 
foraminotomy for L4-L5 radiculopathy/herniation, discharged 
___, presents to ___ with 3 day h/o fevers and 
chills to 103.7 ___s cough.  

On arrival to ___, Pt was febrile to 103.7, with 
initial SBP of 77/43, not responsive to 3L bolus of 
crystalloids.  His lumbar incision was noted to be clean and 
dry.  A chest xray obtained revealed RLL PNA.  His WBC was 12K, 
with lactate of 2.1.  After additional L of NS, L of LR and 
initiation of phenylephrine low dose, pt became normotensive 
(100's/___) and was mentating normally.  He was treated with 
500mg PO flagyl, and 1 gm CTX at ___.  He was subsequently 
transferred to ___.  Pt reports that his radicular symptoms 
have completely resolved s/p surgery.  

ED Course: 
In the ED, initial VS were: 98.6 72 104/63 20 98%  
- trigger for transfer; 89/60 with neo gtt turned off
- EKG: Non-specific ST-T changes.  No significant change from 
previous tracing of ___. 
[] labs: lactate 0.9, WBC 11.1, UA neg, chem7 wnl.  
[] broadened abx to vanc and levaquin
[] CVL and pt started on levophed and phenylephrine stopped 
[] repeat CXR - RLL PNA 
[] total ___ + ___ ED 7L IVF, now minimal levo and 
pressures in 110s sbp.  

On arrival to the MICU, patient's bp is 140/80.  
He is on NS at 200/hr and making good urine.
 
Past Medical History:
SVT ablation
hypertension 
anxiety attack
s/p post discectomy  
 
Social History:
___
Family History:
Father has HTN
Mother MI at ___ yo
2 brothers are well
___ grandmother MI at ___ and grandfather at ___ yo
 

 
Physical Exam:
98, hr 62, 145/81, 20, 97% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, non-distended, bowel sounds present, no 
organomegaly, no tenderness to palpation, no rebound or guarding 
 
GU: no foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
 

 
Pertinent Results:
___
 
___ 0625 0619 Na 132 K 4.0 Cl93 HCO3 31  GLU 108  BUN 31 Cr 
1.2 (1.2 on ___  Ca 8.5   

LACTATE VENOUS (LACTIC ACID) 
___  2.1  

HEMOGRAM/PLT 
___ 0625 WBC 12.9 HgB 11.4 HCT 32.0 L Plt185

URINALYSIS W/MICROSCOPIC 
___ ___: Unremarkable  
 
Micro: ___ x 2- pending, Cdiff- pending 
 
Images:
CXR (___) ___
Chest 2 views, ___.
 
No prior exams for comparison.
 
Infiltrate the right lung base compatible with pneumonitis. Left 
lung
is clear. No evidence of CHF.
 
Impression: 
 Right basilar infiltrate compatible with pneumonitis. 
Radiographic
followup recommended.  
 
EKG: Report from ___: Sinus rhythm.  Non-specific ST-T 
changes.  No significant change from previous tracing of 
___. 

___ admission 

___ 11:52AM   LACTATE-0.9
___ 11:50AM   GLUCOSE-66* UREA N-21* CREAT-1.0 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-32 ANION GAP-10
___ 11:50AM   estGFR-Using this
___ 11:50AM   ALT(SGPT)-78* AST(SGOT)-41* ALK PHOS-89 TOT 
BILI-0.2
___ 11:50AM   LIPASE-31
___ 11:50AM   ALBUMIN-3.2*
___ 11:50AM URINE  HOURS-RANDOM
___ 11:50AM URINE  GR HOLD-HOLD
___ 11:50AM   WBC-11.1* RBC-3.14* HGB-10.8* HCT-30.8* 
MCV-98 MCH-34.4* MCHC-35.1* RDW-12.3
___ 11:50AM   NEUTS-68.5 ___ MONOS-5.1 EOS-2.9 
BASOS-0.3
___ 11:50AM   PLT COUNT-199
___ 11:50AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:50AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

CXR ___
Single portable view of the chest is compared to previous 
outside 
exam performed earlier the same day at 6:54 a.m.  There is new 
right internal jugular venous catheter whose tip projects over 
the upper SVC.  There is no visualized pneumothorax on this film 
noting significant rotation.  Right lower lung consolidation is 
again seen but better characterized on previous exam suspicious 
for pneumonia.  Left lung is grossly clear. 
  
IMPRESSION:  New right IJ line with tip in the upper SVC.  No 
visualized 
pneumothorax.  Persistent right lower lung consolidation 
compatible with 
pneumonia. 

Micro: 
blood cx x2 ___: pending 

Discharge: 

___ 05:12AM BLOOD WBC-9.1 RBC-3.48* Hgb-11.5* Hct-33.5* 
MCV-96 MCH-32.9* MCHC-34.2 RDW-12.1 Plt ___
___ 05:12AM BLOOD Neuts-65.3 ___ Monos-8.2 Eos-4.9* 
Baso-0
___ 05:12AM BLOOD Glucose-94 UreaN-15 Creat-0.9 Na-139 
K-4.6 Cl-102 HCO3-33* AnGap-9
___ 05:12AM BLOOD Calcium-9.0 Phos-3.1 Mg-1.9
___ 05:29AM BLOOD Lactate-0.___ 5 days s/p uncomplicated left L5 MDFH and left L4 
foraminotomy for L4-L5 radiculopathy/herniation, discharged 
___, presents to ___ with 3 day h/o fevers and 
chills to 103.7 and cough.

# Hospital Acquired Pneumonia:  Pt recently underwent spinal 
surgery and presented to ___ with post-op fever and septic 
shock.  His CXR showed a new RLL infiltrate and he complains of 
cough, making pneumonia most likely diagnosis.  His U/A was 
clear, surgical site is clean and he does not have any focal 
neuro deficits.  Pt was recently intubated for his procedure, 
and as per ___ notes, it seems that he was over sedated at 
one point requiring narcan, so the possibility of aspiration is 
quite high.  Given that he was only intubated for procedure we 
treated his pneumonia as a hospital acquired pneumonia, rather 
than ventilator acquired pneumonia.  He was initially covered 
with vancomycin and levaquin, and on HD2 he was narrowed to po 
levaquin.  Pt remained afebrile without o2 requirement and his 
leukocytosis resolved.  He was discharged with a 7 day 
antibiotic course for hospital acquired pneumonia.  

#Septic Shock:  secondary to pneumonia as above.  On 
presentation, pt was febrile to ___, with leukocytosis and 
hypotensive to ___ systolic.  He had evidence of end organ 
ischemia with lactate of 2.1 and acute kidney injury with 
elevated BUN and cr.  He was treated with early goal directed 
therapy and initially volume resuscitated with a total of 7 
liters of crystalloid.  Initially his blood pressures did not 
respond adequately, so he was started on phenylephrine and after 
a central line was placed, he was started on norepinephrine.  By 
the time he reached the ___ MICU, his blood pressure was 
normotensive and vasopressors were discontinued.  His CVP 
remained >10 so aggressive volume resuscitation was stopped.  
His lactate came down to 0.9 and his acute kidney injury 
resolved.  Pt remained normotensive for remainder of FICU 
course.  

# s/p Laminectomy - currently no neurological deficits, 
radiculopathy is actually improved since surgery.  Incision site 
was cdi and his dressing was changed as needed.  At time of 
discharge, pt still had staples in place and will need to follow 
up with his neuro-surgeon for post-op check and staple removal.  
He was continued on post-surgical ppx antibiotics 
(dicloxicillin) as prescribed by his surgeon.   

HTN: Pt's antihypertensive medications were held during 
hospitalization due to shock.  At time of discharge, he was 
normotensive.  He was instructed to restart his 
amlodipine/benazapril, but not to restart his triemtarine/HCTZ 
given that he was normotensive at time of discharge.  

SVT: bystolic was held as pt initially in shock.  It was 
restarted at time of discharge.  

Depression/anxiety: continued with venlafaxine and diazepam.  

Transitional: 
- f/u final blood cultures 
- continue for total 7 day course of levaquin 
- f/u with neurosurgeon for staple removal and post op check 
- will need follow up with PCP within one week of discharge 
 
Medications on Admission:
Nebivolol Hcl (Bystolic) 50 MG PO DAILY
Venlafaxine 150 MG PO DAILY
Triamterene &  Hydrochlorothiaz 1 TAB PO DAILY 25 MG/37.5 MG CAP
Clonazepam (Klonopin) 2 MG PO BID PRN
Diazepam 5MG* (Valium 5MG*)10 MG PO 5XDAY PRN
Hydrocodone-Acetaminophen 1 TAB PO Q4H PRN 10 MG/650 MG
dicloxicillin 
amlodipine/benazapril ___ qday
 
Discharge Medications:
1. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation: take for constipation while on 
narcotic medications .
Disp:*60 Tablet(s)* Refills:*0*
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day: take while on narcotic medications .
Disp:*60 Capsule(s)* Refills:*0*
3. methocarbamol 500 mg Tablet Sig: One (1) Tablet PO Q4HR () as 
needed for muscle spasm.  
4. diazepam 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety.  
5. venlafaxine 75 mg Capsule, Ext Release 24 hr Sig: Two (2) 
Capsule, Ext Release 24 hr PO DAILY (Daily).  
6. clonazepam 2 mg Tablet Sig: One (1) Tablet PO twice a day.  
7. Bystolic  Oral
8. Levaquin 750 mg Tablet Sig: One (1) Tablet PO once a day for 
5 days.
Disp:*5 Tablet(s)* Refills:*0*
9. amlodipine-benazepril ___ mg Capsule Sig: One (1) Capsule PO 
once a day.  
10. dicloxacillin  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Septic Shock 
Hospital Acquired Pneumonia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, 

You were admitted to ___ for septic shock secondary to 
pneumonia.  We treated you with aggressive IV fluids and 
vasopressor medications to keep your blood pressure at a normal 
level and we treated your pneumonia with antibiotics.  We think 
that you are now safe to go home.  You will need to continue 
antibiotics for an additional 5 days.  

We have made the following changes to your home medications: 
1. Start Levaquin 750mg by mouth once daily for five days 
2. start tylenol ___ ___ tablets every 6hrs for pain 
3. hold triamterene/Hydrochlorothiazide ___ daily until 
you follow up with your primary care doctor
4. start taking senna and colace tablets to prevent narcotic 
induced constipation.  
5. continue taking dicloxicillin for post-surgical prophylaxis 
as prescribed by your surgeon  
6. continue with the rest of your home medications 
 
Followup Instructions:
___